US03978057
7 g. of 3-chloro-5-aminopyridazine is added to 125 ml. of hydrazine and the mixture is stirred under nitrogen for 17.5 hours at a temperature below reflux. The reaction mixture is cooled to room temperature, and the residual hydrazine removed by evaporation. The residue is treated with 250 ml. of methanol to extract the product. After separating the extractant and washing the residue with small amounts of methanol, the combined extractant-filtrate is treated with hydrogen chloride gas. The solution is then treated with ether to give a crystalline product which is recrystallized from methanol to give 5-amino-3-hydrazinopyridazine dihydrochloride; m.p. 220°-222°C.

reactant | 3-chloro-5-aminopyridazine | ClC=1N=NC=C(C1)N | C4H4ClN3
reactant | hydrazine | NN | H4N2
product | 5-amino-3-hydrazinopyridazine dihydrochloride | Cl.Cl.NC=1C=C(N=NC1)NN | InChI=1S/C4H7N5.2ClH/c5-3-1-4(8-6)9-7-2-3;;/h1-2H,6H2,(H3,5,8,9);2*1H
